US08242145B2
Step 4: {3-[4-Fluoro-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester
To 2-oxazolidone (0.12 g, 1.4 mmol) in 1,4-dioxane (10 mL) was added sodium hydride (60% in mineral oil; 0.06 g, 1.5 mmol), and the mixture was stirred for 10 minutes. [3-(2-Bromomethyl-4-fluoro-phenoxy)-phenyl]-acetic acid ethyl ester (0.35 g, 0.95 mmol) was added in 1,4-dioxane, and the reaction was stirred for 1 hour at room temperature. After work-up, the crude material was purified by preparative HPLC to give the desired product (0.16 g).

reactant | 2-oxazolidone | 1.4 mmol, 0.12 g | O1[C-]=NC(C1)=O
reactant | sodium hydride | 1.5 mmol, 0.06 g | [H-].[Na+]
reactant | [3-(2-Bromomethyl-4-fluoro-phenoxy)-phenyl]-acetic acid ethyl ester | 0.95 mmol, 0.35 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)F)CBr)=O | C17H16BrFO3
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | {3-[4-Fluoro-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | 0.16 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)F)CN1C(OCC1)=O)=O | C20H20FNO5
